US05099068
N-[2-Hydroxy-5-[1-hydroxy-2-[[6-[4-[(2-naphthalenyl)oxy]butoxy]hexyl]amino]ethyl]phenyl]methanesulphonamide
A solution of N-[5-(bromoacetyl)-2-(phenylmethoxy)phenyl]methanesulphonamide (1.96 g), N-[6-[4-[(2-naphthalenyl)oxy]butoxy]hexyl]benzenemethanamine (2.0 g) and DEA (0.96 g) in dichloromethane (45 ml) was stirred under nitrogen at room temperature for 22 h. The mixture was treated with water (100 ml) and extracted with dichloromethane (2×150 ml). The combined organic extracts were dried and evaporated in vacuo to give an oil which was dissolved in methanol (30 ml) and dichloromethane (20 ml) and cooled to 0°-5° C. under nitrogen. Sodium borohydride (0.50 g) was added portionwise and the solution stirred at room temperature for 30 min, then carefully diluted with water (20 ml). The solvent was evaporated in vacuo, the residue partitioned between water (100 ml) and dichloromethane (150 ml) and the aqueous phase re-extracted with dichloromethane (150 ml), the combined organic extracts being dried and evaporated in vacuo to give an oil which was purified by FCC eluting with System C (95:5:1). A solution of the oil (3.41 g) in absolute ethanol (60 ml) was hydrogenated over pre-reduced 10% palladium on charcoal catalyst (50% aqueous paste, 1.5 g) in absolute ethanol (10 ml) for 4.5 h. The mixture was filtered through hyflo and evaporated in vacuo to give an oil which was purified by FCC eluting with System B (40:10:1) to give a cream solid. Trituration with diethyl ether gave the title compound as a white solid (1.23 g), m.p. 99.5°-100.5°.

reactant | N-[5-(bromoacetyl)-2-(phenylmethoxy)phenyl]methanesulphonamide | 1.96 g | BrCC(=O)C=1C=CC(=C(C1)NS(=O)(=O)C)OCC1=CC=CC=C1 | C16H16BrNO4S
reactant | N-[6-[4-[(2-naphthalenyl)oxy]butoxy]hexyl]benzenemethanamine | 2.0 g | C1=C(C=CC2=CC=CC=C12)OCCCCOCCCCCCNCC1=CC=CC=C1 | C27H35NO2
reactant | Sodium borohydride | 0.50 g | [BH4-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | N-[2-Hydroxy-5-[1-hydroxy-2-[[6-[4-[(2-naphthalenyl)oxy]butoxy]hexyl]amino]ethyl]phenyl]methanesulphonamide | 1.23 g | OC1=C(C=C(C=C1)C(CNCCCCCCOCCCCOC1=CC2=CC=CC=C2C=C1)O)NS(=O)(=O)C | C29H40N2O6S
